US06241785B1
One method consists, for example, in preparing, in a first step, trimethylapigenidin by condensation of commercially available 4,6-dimethoxy-2-hydroxybenzaldehyde with commercially available 4-methoxyacetophenone at 0° C. in anhydrous ether medium, and saturation with anhydrous HCl in order to obtain, after filtration, an orange-red precipitate of trimethylapigenidin. In a second step, in hydrolysing the trimethylapigenidin obtained in the preceding step to apigenidin chloride, the reaction being carried out in an HI and phenol and AgCl medium in solution in methanol. Such a method of synthesis is described by R. Robinson and A. Robertson in J., Chem., Soc. 1951-(1926) and 2196-(1927).

reactant | 4,6-dimethoxy-2-hydroxybenzaldehyde | COC1=CC(=C(C=O)C(=C1)OC)O | C9H10O4
reactant | 4-methoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | apigenidin chloride | C1=CC(=CC=C1C=2C=CC=3C(=CC(=CC3[O+]2)O)O)O.[Cl-].[Cl-] | InChI=1S/C15H10O4.2ClH/c16-10-3-1-9(2-4-10)14-6-5-12-13(18)7-11(17)8-15(12)19-14;;/h1-8H,(H2-,16,17,18);2*1H/p-1
